US05082845
2) Production of 7-allyl-1-(5-hydroxyhexyl)-3-methylxanthine (Compound 21)
To 11.8 g of 7-allyl-3-methyl-1-(5-oxyhexyl)-xanthine (prepared by alkylation of 7-allyl-3-methylxanthine with 1-chlorohexan-5-one in dimethylformamide in the presence of potassium carbonate at 100° C. for 5 hours; melting point: 71° C.), dissolved in 200 ml of ethanol, 1.5 g of sodium borohydride was added slowly under stirring at a temperature of max. 30° C. After stirring at room temperature for 6 hours the mixture was evaporated under reduced pressure. The residue was extractively worked up with dilute sodium hydroxide solution and with methylene chloride. The combined methylene chloride phases were washed with water, dried and evaporated under reduced pressure. The residue was purified by means of chromatography on silica gel (mobile phase: methylene chloride/ethanol/ammonia-solution (28%), volume ratio 8:2:0.2) and by recrystallization from methylene chloride/diethylether.

reactant | 7-allyl-3-methylxanthine | C(C=C)N1C=NC=2N(C(NC(C12)=O)=O)C | C9H10N4O2
reactant | 1-chlorohexan-5-one | ClCCCCC(C)=O | C6H11ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 7-allyl-1-(5-hydroxyhexyl)-3-methylxanthine | C(C=C)N1C=NC=2N(C(N(C(C12)=O)CCCCC(C)O)=O)C | C15H22N4O3
